US08664220B2
Step 8: 1-{4′-[3-Ethyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-ethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-bromo-6-phenyl-pyridine.

reactant | 1-[4′-(4-amino-3-ethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)CC)N | C23H24N2O3
reactant | 2-bromo-6-phenyl-pyridine | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
product | 1-{4′-[3-Ethyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)CC)NC1=NC(=CC=C1)C1=CC=CC=C1 | C34H31N3O3
